US06982348B2
To a solution of (4RS,5SR)-5-(4-fluorophenyl)-4-((4-(trifluoromethyl)phenyl)methyl)-1,3-oxazolidin-2-one (3.50 g, 10.32 mmol) in acetonitrile (30 ml) were added di-t-butyl dicarbonate (2.70 g, 12.39 mmol) and 4-dimethylaminopyridine (126 mg, 1.03 mmol) and the mixture was stirred at room temperature for 1 hr. The reaction solution was diluted with water (100 ml) and extracted with ethyl acetate (100 ml×2). The extract was washed with saturated brine, dried over anhydrous magnesium sulfate and evaporated under reduced pressure. Recrystallization from ethyl acetate-hexane gave 1,1-dimethylethyl (4RS,5SR)-5-(4-fluorophenyl)-2-oxo-4-((4-(trifluoromethyl)phenyl)methyl)-1,3-oxazolidine-3-carboxylate (4.09 g, 90%).

reactant | (4RS,5SR)-5-(4-fluorophenyl)-4-((4-(trifluoromethyl)phenyl)methyl)-1,3-oxazolidin-2-one | 10.32 mmol, 3.50 g | FC1=CC=C(C=C1)C1C(NC(O1)=O)CC1=CC=C(C=C1)C(F)(F)F | C17H13F4NO2
reactant | di-t-butyl dicarbonate | 12.39 mmol, 2.70 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
solvent | acetonitrile | 30 ml | C(C)#N | C2H3N
catalyst | 4-dimethylaminopyridine | 1.03 mmol, 126 mg | CN(C1=CC=NC=C1)C | C7H10N2
solvent | water | 100 ml | O | H2O
product | 1,1-dimethylethyl (4RS,5SR)-5-(4-fluorophenyl)-2-oxo-4-((4-(trifluoromethyl)phenyl)methyl)-1,3-oxazolidine-3-carboxylate | 4.09 g, 90% | FC1=CC=C(C=C1)C1C(N(C(O1)=O)C(=O)OC(C)(C)C)CC1=CC=C(C=C1)C(F)(F)F | C22H21F4NO4
